US04495320
3,6,8-tri-t-butyl-2-naphthyl Catechol Phosphite
6.0 weight parts of 3,6,8-tri-t-butylnaphthol was dissolved in 86.7 weight parts of dry toluene and the solution cooled to about 6° C. Under nitrogen, 3.36 weight parts of catechol phosphorochloridite was added to the solution. 1.95 weight parts of triethyl amine was added slowly to the cooled stirred solution. The reaction was allowed to continue for 16 hours at room temperature. 69 weight percent product was obtained. The reaction mixture was filtered, washed twice with water, dried over MgSO4 and rotoevaporated to remove all traces of toluene. An oil was obtained that solidified. This solid was stirred in acetone and a white powder was obtained that had a melting point of 140°-142° C. The expected structure was confirmed by infra red and nuclear magnetic resonance spectra. The molecular weight was confirmed by the field desorption/mass spectrum.

reactant | 3,6,8-tri-t-butylnaphthol | C(C)(C)(C)C=1C=C(C2=C(C=C(C=C2C1)C(C)(C)C)C(C)(C)C)O | C22H32O
reactant | catechol phosphorochloridite | P(O)(Cl)OC=1C(O)=CC=CC1 | C6H6ClO3P
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetone | CC(=O)C | C3H6O
product | 3,6,8-tri-t-butyl-2-naphthyl Catechol Phosphite | P(O)(O)O.C(C)(C)(C)C=1C(=CC2=C(C=C(C=C2C1)C(C)(C)C)C(C)(C)C)C1=C(C(O)=CC=C1)O | InChI=1S/C28H36O2.H3O3P/c1-26(2,3)18-13-17-14-22(27(4,5)6)21(19-11-10-12-24(29)25(19)30)16-20(17)23(15-18)28(7,8)9;1-4(2)3/h10-16,29-30H,1-9H3;1-3H
